US08252931B2
To title A compound, 3-cyclopentyl-2-phenylpropionic methyl ester (13.0 g, 56 mmol) in 100 mL of methanol is added a solution of 5.6 g (140 mmol) of NaOH in 8 mL of water. The reaction mixture is stirred at ambient temperature overnight. The methanol is evaporated and the residue is dissolved in 200 mL of water and extracted with ethyl ether. The aqueous phase is separated and adjusted to pH 2-3 with 1 N HCl and extracted with MTBE twice. The combined extracts are washed with saturated sodium chloride and dried over anhydrous magnesium sulfate. The material is evaporated to a yellow oil that crystallizes to provide 3-cyclopentyl-2-phenylpropionic acid as an off-white solid: 1H NMR (400 MHz, CDCl3) δ 1.7 (m, 2H), 2.1 (m, 2H), 2.2 (m, 3H), 2.4(m, 3H), 2.4 (m, 1H), 4.2 (t, J=7.7 Hz, 1H), 7.9 (m, 5H); LC/MS 236 (M+NH4+).

reactant | 3-cyclopentyl-2-phenylpropionic methyl ester | 56 mmol, 13.0 g | COC(C(CC1CCCC1)C1=CC=CC=C1)=O | C15H20O2
reactant | NaOH | 140 mmol, 5.6 g | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 8 mL | O | H2O
product | 3-cyclopentyl-2-phenylpropionic acid | C1(CCCC1)CC(C(=O)O)C1=CC=CC=C1 | C14H18O2
